US04076821
A mixture of 3.7 g of 4,4-bis(p-fluorophenyl)-1-chloro-2-cyclohexene, 3.1 g of 1-(p-bromophenyl)-1,3,8-triazaspiro[4.5]decan-4-one (m.p. 204°-207° C), 1.7 g of potassium carbonate, 2 g of potassium iodide and 25 ml of dimethylformamide is stirred at 65°-75° C for 3.5 hours. The reaction mixture is then poured into water. The precipitated powder is collected by filtration and dissolved in methanol. The solution is concentrated to some degree, and acetone is added thereto, and the whole mixture is cooled. The precipitated crystals are collected by filtration and purified in the same manner to give 8-[4,4-bis(p-fluorophenyl)-2-cyclohexenyl]-1-(p-bromophenyl)-1,3,8-triazaspiro[4.5]decan-4-one as white crystals, melting at 219°-221° C.

reactant | 4,4-bis(p-fluorophenyl)-1-chloro-2-cyclohexene | 3.7 g | FC1=CC=C(C=C1)C1(C=CC(CC1)Cl)C1=CC=C(C=C1)F | C18H15ClF2
reactant | 1-(p-bromophenyl)-1,3,8-triazaspiro[4.5]decan-4-one | 3.1 g | BrC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16BrN3O
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 8-[4,4-bis(p-fluorophenyl)-2-cyclohexenyl]-1-(p-bromophenyl)-1,3,8-triazaspiro[4.5]decan-4-one | FC1=CC=C(C=C1)C1(C=CC(CC1)N1CCC2(C(NCN2C2=CC=C(C=C2)Br)=O)CC1)C1=CC=C(C=C1)F | C31H30BrF2N3O
